US07429681B2
In a 500 mL round bottom flask was charged 2,4-dibromoanisole (5.0 g, 18.8 mmol) followed by 200 mL of dry tetrahydrofuran under nitrogen. The reaction mixture was then cooled to −78° C., and n-butyllithium (16.11 mL, 22.56 mmol) was added dropwise. The reaction mixture was stirred for 30 min at −78° C. The reaction mixture was then warmed to 0° C. and trimethylborate (2.57 mL, 22.56 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 30 min. 5 mL of glacial acetic acid was added followed by 10 mL of 35% wt. hydrogen peroxide in a drop wise fashion. The reaction was allowed to stir 12 h at room temperature. The reaction was quenched with 1 N HCl, extracted with ethylacetate (100×3) and the combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by column chromatography yielded 1 g (26%) of 3-hydroxy, 4-methoxybromobenzene (white crystals). (96:4 Hexanes:ethylacetate).

reactant | 2,4-dibromoanisole | 18.8 mmol, 5.0 g | BrC1=C(C=CC(=C1)Br)OC | C7H6Br2O
reactant | n-butyllithium | 22.56 mmol, 16.11 mL | C(CCC)[Li]
reactant | trimethylborate | 22.56 mmol, 2.57 mL | COB(OC)OC | C3H9BO3
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-methoxybromobenzene | COC1=CC=C(C=C1)Br | C7H7BrO
